US06900216B2
A mixture of 2-bromo-1-(4-chlorobenzo[b]thiophen-2-yl]ethan-1-one (2.5 g), 2-imidazolidinethione (0.88 g), acetic acid (25 ml) and ethanol (50 ml) was heated under reflux for 90 minutes, then cooled to 0° C. The resulting solid was collected by filtration and dried in vacuo at 60° C. for 2 hours to give 3-(4-chlorobenzo[b]thiophen-2-yl)-5,6-dihydroimidazo[-2,1-b]thiazole hydrobromide (2.15 g) as colourless solid, m.p. 261-263° C.

reactant | 2-bromo-1-(4-chlorobenzo[b]thiophen-2-yl]ethan-1-one | 2.5 g | BrCC(=O)C1=CC2=C(S1)C=CC=C2Cl | C10H6BrClOS
reactant | 2-imidazolidinethione | 0.88 g | N1C(NCC1)=S | C3H6N2S
reactant | acetic acid | 25 ml | C(C)(=O)O | C2H4O2
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 3-(4-chlorobenzo[b]thiophen-2-yl)-5,6-dihydroimidazo[-2,1-b]thiazole hydrobromide | 2.15 g | Br.ClC1=CC=CC=2SC(=CC21)C=2N1C(SC2)=NCC1 | InChI=1S/C13H9ClN2S2.BrH/c14-9-2-1-3-11-8(9)6-12(18-11)10-7-17-13-15-4-5-16(10)13;/h1-3,6-7H,4-5H2;1H
